Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PCP: Dr. ___

CC: left knee erythema and pain
 
Major Surgical or Invasive Procedure:
Arthrocentesis left knee ___

 
History of Present Illness:
Mr. ___ is a ___ M with a medical history notable for diabetes 
and gout. He presented to the ___ with knee pain since ___. 

He reports striking his left knee on a car on ___ in the 
morning while walking. On ___ he noted erythema and swelling at 
the knee and presented to the ___. He was prescribed 
Keflex and discharged to home. He was able to fill the 
prescription and took the medication as prescribed. However, on 
___ (1 day prior to admission) he noted progressive pain, 
swelling, and erythema on his knee. He also noted subjective 
fevers and was unable to walk due to the pain.

Vitals on arrival to ___: T 98.8, P 80, BP 150/90, 93%RA. His 
evaluation in the ___ was notable for an arthrocentesis that 
revealed 50WBC and no crystals. In the ___ he received Vancomycin 
and Unasyn.

ROS: included in HPI. Other systems reviewed and otherwise 
negative.
 
Past Medical History:
Diabetes mellitus, type 2
Hypertension
Chronic kidney disease, stage II
History of gout

 
Social History:
___
Family History:
Multiple family members with diabetes.
 
Physical Exam:
Vital Signs: T 99.4, P 65, BP 150/82, 97% on RA.

Physical examination:
- Gen: Well-appearing in NAD.
- Chest: Normal respirations and breathing comfortably on room 
air. Lungs clear to auscultation bilaterally.
- CV: PMI non-palpable. Regular rhythm. Normal S1, S2. No 
murmurs or gallops. 
- Abdomen: Normal bowel sounds. Soft, nontender, nondistended. 
- Extremeties: left knee with mild swelling but unable to flex 
knee due to pain
- Neuro: Alert, oriented x3. Good fund of knowledge. Able to 
discuss current events and memory is intact. CN ___ intact. 
Speech and language are normal.
 
Pertinent Results:
  - ___ 08:15PM   GLUCOSE-182* UREA N-27* CREAT-1.7* 
SODIUM-140 POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-31 ANION GAP-___
 - ___ 08:15PM   WBC-12.3* (NEUTS-75.4* LYMPHS-18.3 
MONOS-4.1 EOS-1.3 BASOS-0.9) RBC-4.91 HGB-14.9 HCT-43.4 MCV-88 
MCH-30.3 MCHC-34.3 RDW-13.9
PLT COUNT-168
 - ___ 01:20AM JOINT FLUID  WBC-50 RBC-675* No crystals
 
Brief Hospital Course:
1. Polyarticular arthritis involving left knee and ankle - 
initially appeared to ___ MD to be superficial cellulitis 
overlying knee, which had failed outpt Keflex. He was started on 
empiric Vancomycin with no improvement. Joint fluid cultures 
remained negative, and, interestingly there were no crystals. 
The patiennt has a history of gout and his uric acid level was 
elevated (though he does have mild renal failure). It is 
possible that this was osteoarthritis but there was more 
inflammation clinically than one would expect with that 
disorder. He also developed left ankle pain, swelling, 
tenderness and inflammation (significant). This, he stated, was 
the usual course and location of his gouty attacks. So he was 
started on an empiric regimen of colchicine, carefully dosed for 
his renal dysfunction. NSAIDS were avoided due to his renal 
failure. On the colchicine he improved, without side effects. 
His dose was increased per his request because in the past, he 
had required higher doses of colchicine for control of his gout. 
___ tolerated this quite well. Thiazide diuretics were 
discontinued. Potassium and magnesium were repleted. Physical 
therapy saw him and cleared him for home discharge.

2. Chronic kidney disease, stage II
 - Baseline Cr 1.5, down to 1.3 by discharge.

3. Hypertension
 - HCTZ was discontinued given the renal failure and acute gout. 
Atenolol and Amlodipine were continued.

4. Diabetes mellitus, type II, uncontrolled with complications 
(renal disease)
 - continued Lantus, glyburide was changed to glipizide.

5. Hyperlipidemia
 - continue atorvastatin

Discharge disposition - home with services; clinically improved
 
Medications on Admission:
-confirmed doses with patient-
Keflex ___ QID
Percocet ___ tabs every 4 hours as needed for pain
Lipitor 40mg daily
Atenolol/HCTZ 100/25 daily
Amlodipine 10mg daily
Glyburide 5mg BID
Lantus 22U qam
 
Discharge Medications:
1. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Atenolol 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
3. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

4. Insulin Glargine 100 unit/mL Solution Sig: ___ (22) 
units Subcutaneous once a day.
Disp:*660 units* Refills:*2*
5. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*
6. Glipizide 2.5 mg Tablet Extended Rel 24 hr Sig: One (1) 
Tablet Extended Rel 24 hr PO once a day.
Disp:*30 Tablet Extended Rel 24 hr(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Polyarticular arthritis involving left knee and ankle - probable 
gout
CKD, Stage II - stable
DM II with complications (rnal failure)
HTN
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent with crutches. 
Weightbearing as tolerated on left leg.

 
Discharge Instructions:
You were diagnosed with gout of your left knee and ankle. 

STOP Colchicine if you are taking any of the following 
medications: erythromycin, clarithromycin, fluconazole, 
itraconazole, ketoconazole, verapamil, diltiazem, amprenavir, 
aprepitant, fosamprenavir, atazanavir, nefazodone, nelfinavir, 
ritonavir, saquinavir, telithromycin. Do NOT drink grapefruit 
juice while taking colchicine. Taking these medications or 
grapefruit juice with colchicine can cause a serious, even fatal 
reaction.

We stopped one of your medications called hydrochlorothiazide 
(HCTZ) because it can cause gouty attacks. Your primary care 
doctor may need to adjust your other blood pressure medications 
to compensate.

We also changed your diabetic oral medication from glyburide to 
glipizide due to the fact that glipizide may be better for 
patients with kidney problems like you. Continue to eat a 
diabetic diet, avoid alcohol, and check your blood sugar levels 
at least twice a day - preferably before each meal and at 
bedtime. Keep a log of your blood sugars and bring it with you 
to your appointments with your primary care doctor.

 
Followup Instructions:
___